US08580794B2
2-chloro-5,5-dimethylcyclohexa-1,3-dienecarbaldehyde
In a 250 mL round-bottomed flask was added N,N-dimethylformamide (3.5 mL) in dichloromethane (30 mL), and the mixture was cooled to −10° C. Phosphoryl trichloride (4 mL) was added dropwise, and the solution was warmed up to room temperature. 4,4-Dimethylcyclohex-2-enone (5.5 mL) was then added slowly, and the mixture was heated to reflux overnight. The reaction mixture was cooled and quenched with a 0° C. solution of sodium acetate (25 g in 50 mL water). The aqueous layer was extracted with diethyl ether (200 mL×3). The combined organic layers were dried over Na2SO4, filtered, and concentrated to give the product.

reactant | N,N-dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
reactant | Phosphoryl trichloride | 4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4,4-Dimethylcyclohex-2-enone | 5.5 mL | CC1(C=CC(CC1)=O)C | C8H12O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-chloro-5,5-dimethylcyclohexa-1,3-dienecarbaldehyde | ClC1=C(CC(C=C1)(C)C)C=O | C9H11ClO
